US06972294B1
2-{4-[3,3-Bis-(4-methoxy-phenyl)-allyloxy]-benzyl}-malonic acid dimethyl ester
Under a nitrogen atmosphere, 3,3-bis-(4-methoxy-phenyl)-prop-2-en-1-ol (500 mg, 1.95 mmol), tributylphosphine (424 (mg, 2.1 mmol) and 2-(4-hydroxy-benzyl)-malonic acid dimethyl ester (464 mg, 1.95 mmol) were successively dissolved in dry benzene (50 mL). Solid azodicarboxylic dipiperidide (ADDP) (530 mg, 2.1 mmol) was added under stirring at 0° C. to the solution. After 10 min, the reaction mixture was brought to room temperature and the stirring was continued for 16 h. Heptane (10 mL) was added to the reaction mixture and di hydro-ADDP separated out was filtered off. After evaporation of the solvent the product was purified by chromatography eluting with heptane/ethylacetate (4:1) to give 150 mg (16%) of the title compound.

reactant | 3,3-bis-(4-methoxy-phenyl)-prop-2-en-1-ol | 1.95 mmol, 500 mg | COC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)OC | C17H18O3
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-(4-hydroxy-benzyl)-malonic acid dimethyl ester | 1.95 mmol, 464 mg | COC(C(C(=O)OC)CC1=CC=C(C=C1)O)=O | C12H14O5
reactant | Heptane | 10 mL | CCCCCCC | C7H16
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-{4-[3,3-Bis-(4-methoxy-phenyl)-allyloxy]-benzyl}-malonic acid dimethyl ester | 150 mg, 16% | COC(C(C(=O)OC)CC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C29H30O7
